US06949542B2
8-Chloro-7-methyl-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (77 mg, 0.3 mmol) and 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K42) (112 mg, 0.36 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (59 mg).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.3 mmol, 77 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.36 mmol, 112 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC=C1)C)=O | C18H20N2O3
product | 8-Chloro-7-methyl-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=NC=C2)C)=O)C1)C | C21H17ClN4O
